US04780538
In a manner similar to that described in Example IV, 5.0 grams (30 millimoles) of 4-(3,4-methylenedioxyphenethylamine is added dropwise with stirring at ambient temperature to 4.5 grams (31 millimoles) of ethyl propionylacetate and the stirring continued for about 12 hours at ambient temperature. Thereafter, the mixture is diluted with 250 milliliters of diethyl ether and the resulting ether solution washed with 50 milliliters of brine and then dried over sodium sulfate. The ether is vaporized off of the dried and filtered solution to obtain ethyl 3-[2-(3,4-methylenedioxyphenyl)ethyl]amino-2-pentenoate.

reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
reactant | ethyl propionylacetate | 31 millimoles | C(CC)(=O)CC(=O)OCC | C7H12O3
solvent | diethyl ether | 250 milliliters | C(C)OCC | C4H10O
product | ethyl 3-[2-(3,4-methylenedioxyphenyl)ethyl]amino-2-pentenoate | C1OC=2C=C(C=CC2O1)CCNC(=CC(=O)OCC)CC | C16H21NO4
